US05262537
To a solution of 2,3-benzofuran (2.0 ml, 18.15 mmol, in 50 ml of anhydrous ether) was added 1.6M n-butyllithium in hexanes (12.5 ml, 20 mmol). To the 2-benzofuranyl lithium formed by stirring the solution at room temp. for 1 hour was added (ice bath) the compound 5(b) (1.62 g, 7.22 mmol) dissolved in anhydrous tetrahydrofuran (70 ml). The reaction was continued at ice-bath temperature for 3 hours then worked-up as described to afford 0.89 g (44%) of product as off-white solids. This material was converted to the dihydrochloride by addition of 1M hydrochloric acid in ether (8 ml) as described. The dihydrochloride obtained was recrystallized from methanol-ether and dried under vacuum at 60° C. overnight to afford the ketone dihydrochloride as off-white crystals (0.82 g). m.p.: 193°-195° C.

reactant | 2,3-benzofuran | 18.15 mmol, 2.0 ml | C1=CC=C2C(=C1)C=CO2 | C8H6O
reactant | n-butyllithium | 1.6M | C(CCC)[Li]
product | 2-benzofuranyl lithium | O1C(=CC2=C1C=CC=C2)[Li] | InChI=1S/C8H5O.Li/c1-2-4-8-7(3-1)5-6-9-8;/h1-5H;
